US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4,5-di-hydro-imidazole dihydrochloride
Analogously to Example 2, approximately 2.0 g of Raney nickel are added to a solution of 4.75 g (0.0138 mol) of 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4,5-dihydro-imidazole dihydrochloride in 240 ml of water, and hydrogenation is carried out at room temperature and under normal pressure until the absorption of hydrogen has ceased. The reaction mixture is then filtered, adjusted to pH 4 with a small amount of 2N alcoholic hydrochloric acid and concentrated to dryness by evaporation. The residue is recrystallized from water, yielding the title compound in the form of the monohydrate, m.p. 280° C. (decomp.), 1H-NMR (DMSO/D2O): δ=8.17 (d, 1H); 7.66 (d, 1H); 7.54 (t, 1H); 4.18 (t, 2H); 3.70 (t, 2H); 3.25 (m, 2H); 3.13 (m, 2H).

reactant | 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4,5-dihydro-imidazole dihydrochloride | 0.0138 mol, 4.75 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NCC1)N
catalyst | Raney nickel | approximately 2.0 g | [Ni] | Ni
solvent | water | 240 ml | O | H2O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4,5-di-hydro-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NCC1)N | InChI=1S/C13H16N6.2ClH/c14-12(15)10-3-1-2-9-8(10)4-5-11(9)18-19-7-6-17-13(19)16;;/h1-3H,4-7H2,(H3,14,15)(H2,16,17);2*1H
